US05006159
2-(1-(Ethoxyimino)propyl)-3-hydroxy-5-(4-(3-(methylsulfonyl)phenoxy)phenyl)-cyclohex-2-en-1-one
A solution of 1.8 g (4.3 mmol) of 2-propionyl-3-hydroxy-5-(4-(3-(methylsulfonyl)phenoxy)phenyl)-cyclohex-2-en-1-one in 5 mL of methylene chloride and 10 mL of absolute ethanol at room temperature was treated with 0.50 g (5.2 mmol) of ethoxyamine hydrochloride and 0.50 g (6.1 mmol) of anhydrous sodium acetate. After stirring under a nitrogen atmosphere for 16 hours, the mixture was poured into 100 mL of water and extracted thrice with 15 mL portions of methylene chloride. The combined extracts were dried over MgSO4, filtered and passed through a short column of silica gel. Evaporation of the solvent left the above named product as a pale oil in a yield of 1.8 g (91 percent of theoretical). 1H NMR (CDCl3): δ1.09-1.48 (m, 6H, both --CH2CH3 's), 2.57-3.60 (m includes s at 3.02 for CH3SO2 --, 10H), 4.13 (q, J=7 Hz, 2H, OCH2), 6.92-7.75 (m, 8H, aromatics), 14.9 (broad s, H, enol 1H) (Compound 3).

reactant | 2-propionyl-3-hydroxy-5-(4-(3-(methylsulfonyl)phenoxy)phenyl)-cyclohex-2-en-1-one | 4.3 mmol, 1.8 g | C(CC)(=O)C=1C(CC(CC1O)C1=CC=C(C=C1)OC1=CC(=CC=C1)S(=O)(=O)C)=O | C22H22O6S
reactant | ethoxyamine hydrochloride | 5.2 mmol, 0.50 g | Cl.C(C)ON
reactant | sodium acetate | 6.1 mmol, 0.50 g | C(C)(=O)[O-].[Na+]
reactant | water | 100 mL | O | H2O
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-(1-(Ethoxyimino)propyl)-3-hydroxy-5-(4-(3-(methylsulfonyl)phenoxy)phenyl)-cyclohex-2-en-1-one | C(C)ON=C(CC)C=1C(CC(CC1O)C1=CC=C(C=C1)OC1=CC(=CC=C1)S(=O)(=O)C)=O | C24H27NO6S
